US04904815
2.3 Parts of 4-n-decylphenol, 1.4 parts of methyl 5-methyl-hex-5-enoate, 0.25 of 70% perchloric acid, and 10 parts of methylene chloride were stored for 12 days at room temperature. The work up followed Example 61 and gave on distillation, methyl 5-(5-n-decyl-2-hydroxyphenyl)-5-methyl-hexanoate, b0.8, 160°-7° C.

reactant | 4-n-decylphenol | C(CCCCCCCCC)C1=CC=C(C=C1)O | C16H26O
reactant | methyl 5-methyl-hex-5-enoate | CC(CCCC(=O)OC)=C | C8H14O2
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 5-(5-n-decyl-2-hydroxyphenyl)-5-methyl-hexanoate | C(CCCCCCCCC)C=1C=CC(=C(C1)C(CCCC(=O)OC)(C)C)O | C24H40O3
